US05650519
Preparation of (+)-(5S)-5-methyl-5-phenyl-3-phenylamino-2-thiohydantoin (Compound 507):
0.7 g (0.00316 mol) of methyl (+)-(2S)-2-isothiocyanato-2-phenylpropionate, diluted in 15 ml of dry tetrohydrofuran, is introduced into a 100 ml three-necked flask under a dry nitrogen atmosphere. 0.32 ml (0.00316 mol) of phenylhydrazine, diluted in 5 ml of tetrohydrofuran, is run in at 20° C. in a single step. The temperature rises by 2° C. The medium is kept magnetically stirring for 30 minutes. A dark-beige precipitate appears. The medium is neutralized with 0.4 ml of acetic acid and then treated with 20 ml of water. After separating, the aqueous phase is extracted with 3 times 20 ml of ethyl ether. The organic phases are combined, washed with 2 times 30 ml of water, dried over magnesium sulfate and then concentrated under reduced pressure. The solid residue obtained is chromatographed on a silica column, using an eluent mixture composed of heptane and ethyl acetate in the proportions of 50/50.

reactant | methyl (+)-(2S)-2-isothiocyanato-2-phenylpropionate | 0.00316 mol, 0.7 g | N(=C=S)[C@@](C(=O)OC)(C)C1=CC=CC=C1 | C11H11NO2S
reactant | phenylhydrazine | 0.00316 mol, 0.32 ml | C1(=CC=CC=C1)NN | C6H8N2
reactant | acetic acid | 0.4 ml | C(C)(=O)O | C2H4O2
solvent | water | 20 ml | O | H2O
product | (+)-(5S)-5-methyl-5-phenyl-3-phenylamino-2-thiohydantoin | C[C@@]1(C(N(C(N1)=S)NC1=CC=CC=C1)=O)C1=CC=CC=C1 | C16H15N3OS
